US07834043B2
tert-butyl(2S)-3,3-dimethyl-2-[(phenoxyacetyl)amino]butanoate
A solution of L-tert-Leucine tert-butyl ester hydrochloride (0.20 g, 0.90 mmol) in THF (9 mL) at 0° C. was treated with triethylamine (0.38 mL, 2.73 mmol) and phenoxyacetyl chloride (0.14 mL, 1.01 mmol), stirred at 0° C. for 15 minutes and then at 25° C. for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed with brine and dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel eluting with 0-10% ethyl acetate/chloroform to give the title compound (0.23 g, 80% yield).

reactant | L-tert-Leucine tert-butyl ester hydrochloride | 0.90 mmol, 0.20 g | Cl.C(C)(C)(C)OC([C@@H](N)C(C)(C)C)=O
reactant | triethylamine | 2.73 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | phenoxyacetyl chloride | 1.01 mmol, 0.14 mL | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | tert-butyl(2S)-3,3-dimethyl-2-[(phenoxyacetyl)amino]butanoate | 0.23 g, 80% yield | CC([C@@H](C(=O)OC(C)(C)C)NC(COC1=CC=CC=C1)=O)(C)C | C18H27NO4
